2144-09-22 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2144-9-21**] 10:07 PM
 EKG - At [**2144-9-22**] 12:32 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-9-22**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 101 (92 - 119) bpm
   BP: 102/50(61) {87/49(56) - 125/74(87)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 92%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
             Total In:
                                                                  3,450 mL
                                                                    950 mL
   PO:
                                                                    900 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,200 mL
                                                                    650 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    300 mL
                                                                    767 mL
   Urine:
                                                                    175 mL
                                                                    117 mL
   NG:
   Stool:
                                                                    125 mL
   Drains:
   Balance:
                                                                  3,150 mL
                                                                    183 mL
   Respiratory support
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   290 K/uL
   10.1 g/dL
   100 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.2 mEq/L
   14 mg/dL
   102 mEq/L
   134 mEq/L
   28.1 %
   11.7 K/uL
         [image002.jpg]
                             [**2144-9-21**]  05:16 PM
                             [**2144-9-21**]  09:42 PM
                             [**2144-9-22**]  01:03 AM
                             [**2144-9-22**]  04:13 AM
   WBC
   11.7
   Hct
   31.2
   30.5
   28.9
   28.1
   Plt
   290
   Cr
   0.4
   0.4
   Glucose
   105
   100
   Other labs: Albumin:3.0 g/dL, Ca++:7.9 mg/dL, Mg++:2.8 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   89 year-old fwmale with a history of CVA, rectal prolapse, and
   constipation who presents with BRBPR and hct drop concerning for lower
   GIB.
   .
   # GI bleed: BRBPR noted on exam with Hct drop, likely LGIB [**2-22**]
   diverticulosis, AVM, bowel ischemia.  Also consider brisk UGIB as pt
   with report of melena followed by BRBPR.  Patient with history of
   prolapse repair and normal colonoscopy in [**2140**] per PCP [**Name Initial (PRE) 4960**].  She
   recieved 1L ns and 2 U PRBC in the ED with SBP increase from 85 to 105.
   - Active T&S with crossmatch of 4 units
   - Continue to transfuse 2 pRBC
   - Check Hct q4hrs
   - Transfuse for Hct <27
   - IVF for hypotension and to keep MAPs > 60, cardiac status is unclear
   as pt without echo
   - [**Name (NI) 2643**] and a-line for invasive monitoring
   - GI consult appreciated: colonscopy in AM with prep today
   - IV PPI [**Hospital1 **]
   - Should patient need massive transfusion, will need to monitor PT,
   PTT, INR, platelet counts closely for possible dilution of coagulation
   proteins and replace as needed; also need to monitor for  hypocalcemia
   and metabolic alkalosis [**2-22**] to citrate in blood products.
   .
   # Hyponatremia: Na 127-132 in past. Likely [**2-22**] hypovolemia.
   - send urine osmolality, sodium
   - add on serum osmolality
   - IVFs as above
   - trend Na
   .
   # S/P fall with R pelvic fracture: Unclear when this fall was, but
   patient was seen at [**Hospital3 629**] and has been at [**Hospital6 **].
   - Obtain outside recs
   - Continue lidoderm patch
   .
   # HTN: Patient hypotensive in ED
   - Hold all BP meds until patient is HD stable
   .
   # ? Seizure disorder:
   - maintain seizure precautions
   - continue dilantin but will need to convert to IV dosing while NPO
   .
   # FEN: NPO except meds for colonscopy
   - Replete lytes prn
   - IVFs as above
   .
   # ACCESS: 2 PIV; Will place a-line and [**Hospital6 2643**]
   .
   # PPx:  Pnemoboots / PPI / bowel prep overnight
   .
   # CODE: DNR/DNI
   .
   # COMM: Daughter [**Telephone/Fax (1) 4961**]
   .
   # DISPO: ICU until colonoscopy or hct stablized
   .
   .
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-9-21**] 12:47 PM
   Multi Lumen - [**2144-9-21**] 10:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2144-09-22 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2144-9-21**] 10:07 PM
 EKG - At [**2144-9-22**] 12:32 AM
   -Bolused 500cc x2 overnight for decreased UOP
   -Prep for colonoscopy in AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-9-22**] 06:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies abdominal pain, shortness of breath.
   Flowsheet Data as of  [**2144-9-22**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 105 (92 - 119) bpm
   BP: 96/47(54) {87/45(54) - 125/74(87)} mmHg
   RR: 23 (16 - 31) insp/min
   SpO2: 94% on RA
   Heart rhythm: MAT (Multifocal atrial tachycardia)
    CVP: 5 (5 - 5)mmHg
   Total In:
                                                                  3,450 mL
                                                                    960 mL
   PO:
                                                                    900 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,200 mL
                                                                    660 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    300 mL
                                                                    812 mL
   Urine:
                                                                    175 mL
                                                                    162 mL
   NG:
   Stool:
                                                                    125 mL
   Drains:
   Balance:
                                                                  3,150 mL
                                                                    148 mL
   Respiratory support
   SpO2: 94%  RA
   ABG: ///25/
   Physical Examination
   HEENT: NCAT MM dry, pale conjunctiva anicteric
   CV:  RRR S1S2 [**3-26**] holosystolic, blowing murmur loudest at LUSB and L
   axilla, some component of soft diastolic murmur
   PULM: clear bilaterally
   ABD: soft nontender, nondistended hypoactive BS
   EXT: WWP 2+DP pulses bilaterally, no edema, no cyanosis
   SKIN: no rashes, decreased turgor
   Labs / Radiology
   290 K/uL
   10.1 g/dL
   100 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.2 mEq/L
   14 mg/dL
   102 mEq/L
   134 mEq/L
   28.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2144-9-21**]  05:16 PM
                             [**2144-9-21**]  09:42 PM
                             [**2144-9-22**]  01:03 AM
                             [**2144-9-22**]  04:13 AM
   WBC
   11.7
   Hct
   31.2
   30.5
   28.9
   28.1
   Plt
   290
   Cr
   0.4
   0.4
   Glucose
   105
   100
   Other labs: Albumin:3.0 g/dL, Ca++:7.9 mg/dL, Mg++:2.8 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   Assessment and Plan
   89 year-old fwmale with a history of CVA, rectal prolapse, and
   constipation who presents with BRBPR and hct drop concerning for lower
   GIB.
    # GI bleed: BRBPR noted on exam with Hct drop, likely LGIB [**2-22**]
   diverticulosis, AVM, bowel ischemia.  Also consider brisk UGIB as pt
   with report of melena followed by BRBPR.  Patient with history of
   prolapse repair and normal colonoscopy in [**2140**] per PCP [**Name Initial (PRE) 4960**].  She
   recieved 1L ns and 2 U PRBC in the ED with SBP increase from 85 to 105.
   GI recommendations include possible tagged red cell scan given newly
   identified murmur and tachycardia/MAT.
   -tagged RBC scan
   -hold off on colonoscopy
   -trend hct q4h
   -transfuse hct<30
   -IVF for hypotension and to keep MAPs > 60
   -additional large-bore PIV needed
   - IV PPI [**Hospital1 **]
   -Should patient need massive transfusion, will need to monitor PT, PTT,
   INR, platelet counts closely for possible dilution of coagulation
   proteins and replace as needed; also need to monitor for  hypocalcemia
   and metabolic alkalosis [**2-22**] to citrate in blood products.
   .
   #Tachycardia: most likely MAT given pneumothorax s/p line placement
   although also consider atrial fibrillation. Will continue to monitor on
   telemetry
   -repeat EKG/ full rhythm strip
   -continue telemetry
   #Leukocytosis: has been afebrile. monitor serial CBCs
   -f/u pending cultures
   -consider r/o endocarditis with echo
   -trend fevers
   #New systolic murmur: systolic and diastolic component, likely
   partially due to anemia however concern for underlying MI given
   hypotension in the recent past.
   -stat echo
   -cycle enzymes r/o MI
   # Hyponatremia:  Likely [**2-22**] hypovolemia, resolving. IVF as needed
   - trend Na
   # S/P fall with R pelvic fracture: Unclear when this fall was, but
   patient was seen at [**Hospital3 629**] and has been at [**Hospital6 **].
   - Obtain outside recs
   - Continue lidoderm patch
   .
   # HTN: Patient hypotensive in ED
   - Hold all BP meds until patient is HD stable
   # ? Seizure disorder:
   - maintain seizure precautions
   - continue dilantin but will need to convert to IV dosing while NPO
   # FEN: NPO except meds for colonscopy
   - Replete lytes prn
   - IVFs as above
   # ACCESS: 2 PIV; Will place a-line and CVL
   -needs additional large bore PIV
   # PPx:  Pnemoboots / PPI / bowel prep overnight
   # CODE: DNR/DNI
   # COMM: Daughter [**Telephone/Fax (1) 4961**]
   .
   # DISPO: ICU until colonoscopy or hct stablized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-9-21**] 12:47 PM
   Multi Lumen - [**2144-9-21**] 10:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2144-09-22 09:52:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89 year old female history of hemorrhagic stroke who presents with
   In ED, had some hypotension and thus admitted to the ICU. Given PRBCs
   and transferred to the ICU.  Since yesterday, has received 2 Units of
   PRBCs.  Had bowel preparation overnight, some BRBPR, and planned
   colonoscopy for today.
   27 -> 31 (with 2 units) -> 28 -> 28
   24 Hour Events:
 MULTI LUMEN - START [**2144-9-21**] 10:07 PM
 EKG - At [**2144-9-22**] 12:32 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-9-22**] 06:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-9-22**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 111 (92 - 119) bpm
   BP: 98/47(58) {72/40(46) - 125/74(87)} mmHg
   RR: 26 (16 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 5 (5 - 5)mmHg
   Total In:
                                                                  3,450 mL
                                                                    960 mL
   PO:
                                                                    900 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,200 mL
                                                                    660 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    300 mL
                                                                    812 mL
   Urine:
                                                                    175 mL
                                                                    162 mL
   NG:
   Stool:
                                                                    125 mL
   Drains:
   Balance:
                                                                  3,150 mL
                                                                    148 mL
   Respiratory support
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   290 K/uL
   100 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.2 mEq/L
   14 mg/dL
   102 mEq/L
   134 mEq/L
   28.2 %
   11.7 K/uL
        [image002.jpg]
                             [**2144-9-21**]  05:16 PM
                             [**2144-9-21**]  09:42 PM
                             [**2144-9-22**]  01:03 AM
                             [**2144-9-22**]  04:13 AM
                             [**2144-9-22**]  08:01 AM
   WBC
   11.7
   Hct
   31.2
   30.5
   28.9
   28.1
   28.2
   Plt
   290
   Cr
   0.4
   0.4
   Glucose
   105
   100
   Other labs: Albumin:3.0 g/dL, Ca++:7.9 mg/dL, Mg++:2.8 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   A:
   1)       Anemia (GI bleed): HCT seemingly stable overnight although on
   exam very pale conjunctiva and blood from rectal tube.
   Plan:
   -          Repeat Hct; Transfuse PRBCs
   -          IVFs as needed
   2)       Tachycardia (irregular)/heart murmur:
   -          Repeat EKG with rhythm strip
   -          ECHO
   3)       Pneumothorax: Review repeat upright CXR
   4)       History of pelvic fracture
   5)       Htn: Hold antihypertensive medications
   6)       ? Seizure disorder: Dilantin and Keppra
   7)       FEN: NPO for now
   Addendum: ECHO reveals mod-severe MR [**First Name (Titles) **] [**Last Name (Titles) 4990**] component.  Will
   maintain preload and if pressur remains stable without any re-bleeding,
   will start low dose of beta blocker.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-9-21**] 12:47 PM
   Multi Lumen - [**2144-9-21**] 10:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition : ICU care
   Total time spent:  35 (critical Care)

2144-09-23 06:29:00 Physician Resident Progress Note
Chief Complaint:
why do I need all these lines?
   24 Hour Events:
   - pain w/urination, UA w/RBC and WBC- started levofloxacin, Tylenol,
   pyridium
   -TTE: mod TR, mild pulm HTN,[**Male First Name (un) **] (Mitral valve into LVOT)
   -started clear diet
   -CXR: PTX stable, improved subcut emphysema
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-9-22**] 04:18 PM
   Other medications:
   Changes to medical and family history: per daughter, pt has had a
   mitral valve problem for many years, has known murmur, and takes
   antibiotics for dental procedures for many years
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-9-23**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 106 (75 - 120) bpm
   BP: 107/43(57) {72/32(46) - 150/114(86)} mmHg
   RR: 25 (10 - 34) insp/min
   SpO2: 99%  5L
   Heart rhythm: MAT (Multifocal atrial tachycardia)
    CVP: 2 (-1 - 4)mmHg
   Total In:
                                                                  2,395 mL
   PO:
                                                                    350 mL
   TF:
   IVF:
                                                                  1,670 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,322 mL
                                                                    120 mL
   Urine:
                                                                    972 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     73 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%  5L
   ABG: ///22/
   Physical Examination
   HEENT:NCAT, MMM, pale conjunctiva
   CV: RRR S1S2 [**3-26**] murmur
   Pulm: clear, slightly decreased bs on RUL
   Abd: soft nontender +bs
   Ext; WWP 2+DP pulses, no cyanosis, edema
   Labs / Radiology
   259 K/uL
   11.2 g/dL
   97 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.1 mEq/L
   9 mg/dL
   105 mEq/L
   134 mEq/L
   33.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2144-9-21**]  09:42 PM
                             [**2144-9-22**]  01:03 AM
                             [**2144-9-22**]  04:13 AM
                             [**2144-9-22**]  08:01 AM
                             [**2144-9-22**]  09:35 AM
                             [**2144-9-22**]  12:44 PM
                             [**2144-9-22**]  12:51 PM
                             [**2144-9-22**]  03:06 PM
                             [**2144-9-22**]  07:16 PM
                             [**2144-9-23**]  04:47 AM
   WBC
   11.7
   10.2
   9.6
   8.8
   Hct
   30.5
   28.9
   28.1
   28.2
   28.1
   31.7
   31.0
   33.1
   Plt
   290
   262
   230
   259
   Cr
   0.4
   0.4
   0.5
   TropT
   <0.01
   0.01
   0.01
   Glucose
   105
   100
   97
   Other labs: CK / CKMB / Troponin-T:33/3/0.01, Differential-Neuts:84.0
   %, Lymph:8.0 %, Mono:4.0 %, Eos:4.0 %, Albumin:3.0 g/dL, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   89 year-old fwmale with a history of CVA, rectal prolapse, and
   constipation who presents with BRBPR and hct drop concerning for lower
   GIB.
    #Simple PTX: stable on CXR, improved subcut emphysema. Continue
   oxygen. If not improved consider chest tube.
   -5L O2
   -consider chest tube
   -serial CXR qday
   #UTI: on levofloxacin, pyridium and Tylenol.
   -d/c pyridium after 3days
   -4 day course of levo
    # GI bleed: BRBPR noted on exam with Hct drop, likely LGIB [**2-22**]
   diverticulosis, AVM, bowel ischemia.  Also consider brisk UGIB as pt
   with report of melena followed by BRBPR.  Patient with history of
   prolapse repair and normal colonoscopy in [**2140**] per PCP [**Name Initial (PRE) 4960**].  She
   recieved 1L ns and 2 U PRBC in the ED with SBP increase from 85 to 105.
   GI recommendations include possible tagged red cell scan given newly
   identified murmur and tachycardia/MAT.
   -tagged RBC scan if rebleeds
   -hold off on colonoscopy
   -trend hct q4h
   -transfuse hct<30
   -IVF for hypotension and to keep MAPs > 60
   - IV PPI [**Hospital1 **]
   #Tachycardia: most likely MAT given pneumothorax s/p line placement
   although also consider atrial fibrillation. Will continue to monitor on
   telemetry
   -continue telemetry
   -metoprolol 12.5mg [**Hospital1 **] PO
   #Leukocytosis: has been afebrile. monitor serial CBCs
   -f/u pending cultures
   -trend fevers
   #New systolic murmur: Per daughter pt has known history of mitral valve
   murmur, although not documented in PCP [**Name Initial (PRE) 4960**]. systolic and diastolic
   component, likely partially due to anemia however concern for
   underlying MI given hypotension in the recent past.
   -IVF, metoprolol to control heart rate and decrease likelihood of
   dynamic outflow obstruction
   # Hyponatremia:  Likely [**2-22**] hypovolemia, resolving. IVF as needed
   - trend Na
   # S/P fall with R pelvic fracture: Unclear when this fall was, but
   patient was seen at [**Hospital3 629**] and has been at [**Hospital6 **].
   - Obtain outside recs
   - Continue lidoderm patch
   -may need PT consult prior to d/c
   # HTN: Patient hypotensive in ED.
   - metoprolol 12.5 [**Hospital1 **] for now, monitor
   # ? Seizure disorder:
   - maintain seizure precautions
   - continue dilantin but will need to convert to IV dosing while NPO
   # FEN: NPO except meds for colonscopy
   - Replete lytes prn
   - IVFs as above
   # ACCESS: 2 PIV, CVL
   # PPx:  Pnemoboots / PPI / bowel prep overnight
   # CODE: DNR/DNI, confirmed w/daughter (HCP)
no heroic measures
   # COMM: Daughter [**Telephone/Fax (1) 4961**]
   .
   # DISPO: to floor post-cards consult and if hct stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-9-21**] 12:47 PM
   Multi Lumen - [**2144-9-21**] 10:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2144-09-23 10:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, hematocrit remains stable.  ECHO revealed mod-severe MR [**First Name (Titles) **]
[**Last Name (Titles) 5017**]ngs consistent with HOCM.  Received blood, fluids, and heart rate
   improved.  Still has line-related pneumothorax unchanged with oxygen.
   24 Hour Events:
 BLOOD CULTURED - At [**2144-9-23**] 12:00 AM
 EKG - At [**2144-9-23**] 12:00 AM
 URINE CULTURE - At [**2144-9-23**] 12:00 AM
 BLOOD CULTURED - At [**2144-9-23**] 05:35 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2144-9-23**] 08:12 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-9-23**] 06:00 AM
   Other medications:
   Med list reviewed
 see [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below:
   Review of systems: dysuria
   Flowsheet Data as of  [**2144-9-23**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 104 (75 - 120) bpm
   BP: 104/42(59) {94/32(49) - 150/114(86)} mmHg
   RR: 18 (10 - 28) insp/min
   SpO2: 99%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 29.4 kg (admission): 36 kg
   CVP: 2 (-1 - 4)mmHg
   Total In:
                                                                  2,395 mL
                                                                     10 mL
   PO:
                                                                    350 mL
   TF:
   IVF:
                                                                  1,670 mL
                                                                     10 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,322 mL
                                                                    320 mL
   Urine:
                                                                    972 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     73 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   Gen: awake, alert and in no acute distress
   HEENT: NC, AT
   Cardiovascular: (S1: Normal), (S2: Normal) III/VI systolic murmur
   Respiratory / Chest: Breath sounds are decreased on the right side.
   Left clear.
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Skin:  warm, dry
   Neurologic: alert and awake with no focal neuro findings
   Labs / Radiology
   11.2 g/dL
   259 K/uL
   97 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.1 mEq/L
   9 mg/dL
   105 mEq/L
   134 mEq/L
   33.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2144-9-21**]  09:42 PM
                             [**2144-9-22**]  01:03 AM
                             [**2144-9-22**]  04:13 AM
                             [**2144-9-22**]  08:01 AM
                             [**2144-9-22**]  09:35 AM
                             [**2144-9-22**]  12:44 PM
                             [**2144-9-22**]  12:51 PM
                             [**2144-9-22**]  03:06 PM
                             [**2144-9-22**]  07:16 PM
                             [**2144-9-23**]  04:47 AM
   WBC
   11.7
   10.2
   9.6
   8.8
   Hct
   30.5
   28.9
   28.1
   28.2
   28.1
   31.7
   31.0
   33.1
   Plt
   290
   262
   230
   259
   Cr
   0.4
   0.4
   0.5
   TropT
   <0.01
   0.01
   0.01
   Glucose
   105
   100
   97
   Other labs: CK / CKMB / Troponin-T:33/3/0.01, Differential-Neuts:84.0
   %, Lymph:8.0 %, Mono:4.0 %, Eos:4.0 %, Albumin:3.0 g/dL, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   1)       Anemia (GI bleed): hct stable.  No active bleeding. No
   intervention at this time.  GI following
   2)       Pneumothorax: Will place small chest tube for drainage
   3)       Mitral regurgitation/outflow obstruction:  tachycardia
   improved with fluids/blood/low-dose beta blocker. Cardiology consult.
   4)       UTI: Discontinue foley catheter; cipro
   5)       Seizure disorder: dilantin, Keppra
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: Internal Jugular
   20 Gauge - [**2144-9-21**] 12:47 PM
   Multi Lumen - [**2144-9-21**] 10:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition : to the floor
   Total time spent: 35